US07091227B2
(2-Amino-1,3-benzothiazol-6-yl)methyl cyanide
2 grams of 4-aminobenzonitrile is dissolved in about 40 mL acetic acid and the solution is cooled to about 16° C. About 3.3 g of potassium thiocyanate is added and the flask is equipped with an addition funnel. The addition funnel is charged with about 2.7 g bromine and about 5 ml acetic acid. This dark solution is then added to the benzonitrile solution in a dropwise fashion under good agitation and allowed to stir for about 16 hours. The slurry is then drowned into water and filtered. The presscake is washed well with water, reslurried in dilute aqueous alkali and filtered. Again the presscake is washed well with water. After drying in vacuo, about 2 grams is isolated.

reactant | 4-aminobenzonitrile | 2 grams | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | potassium thiocyanate | 3.3 g | [S-]C#N.[K+]
reactant | bromine | about 2.7 g | BrBr | Br2
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
solvent | acetic acid | about 40 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | about 5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (2-Amino-1,3-benzothiazol-6-yl)methyl cyanide | NC=1SC2=C(N1)C=CC(=C2)CC#N | C9H7N3S
